US07754188B2
Step C 2-Methyl-2-(5-difluoromethyl-2-pyridyloxy)propionic Acid
The title compound (1.6 g) was prepared from 4-chloro-3-difluoromethylpyridine (3.0 g) following the procedure described for Reference Example 15 with the following modifications. The ester intermediate was purified by flash column chromatography on silica gel eluting with 0 to 10% ether in hexane. The hydrolysis of the ester to the title compound was effected with lithium hydroxide in methanol/tetrahydrofuran/water. 1H NMR (500 MHz, CD3OD): δ 8.22 (d, 1H), 7.82 (dd, 1H), 6.88 (d, 1H), 6.77 (t, 1H), 1.64 (s, 6H).

reactant | 4-chloro-3-difluoromethylpyridine | 3.0 g | ClC1=C(C=NC=C1)C(F)F | C6H4ClF2N
reactant | lithium hydroxide | [OH-].[Li+]
reactant | methanol tetrahydrofuran water | CO.O1CCCC1.O
product | 2-Methyl-2-(5-difluoromethyl-2-pyridyloxy)propionic Acid | 1.6 g | CC(C(=O)O)(C)OC1=NC=C(C=C1)C(F)F | C10H11F2NO3
